US05116981
5-(3-Bromophenyl)iodomethyl-tetrahydropyran-2-one
6-(3-Bromophenyl)-5-hexenoic acid (1.0 g, 3.72 mmole) is dissolved in 15 ml THF in a 100 ml 2-neck round bottom flask under nitrogen. The solution is diluted with 7.5 ml water, treated with solid potassium hydrogen carbonate (430 mg, 4.3 mmole), and stirred 20 minutes at room temperature. The reaction mixture is protected from light, cooled to -20° C., and treated successively portion-wise with potassium iodide (2.7 g, 16.9 mmole) and iodine (8.5 g, 33.6 mmole). The reaction is stirred 30 minutes at -20° C. and warmed to room temperature to stir overnight. The reaction mixture is diluted with saturated sodium thiosulfate until colorless. The mixture is poured into 50 ml saturated sodium bicarbonate and extracted with 4×30 ml diethyl ether. The organics are combined, dried over magnesium sulfate, and concentrated in vacuo to a crude amber oil (1.5 g). The oil is chromatographed over 40 g silica gel (230-400 mesh), eluting with 25% acetone/hexane and collecting 9 ml fractions. Fractions 16-26 are combined and concentrated to give 1.3 g of the title compound as an amber solid. Following the above procedure gives the title compound having the physical characteristic described below:

reactant | 6-(3-Bromophenyl)-5-hexenoic acid | 3.72 mmole, 1.0 g | BrC=1C=C(C=CC1)C=CCCCC(=O)O | C12H13BrO2
reactant | potassium hydrogen carbonate | 4.3 mmole, 430 mg | C(O)([O-])=O.[K+]
reactant | potassium iodide | 16.9 mmole, 2.7 g | [I-].[K+]
reactant | iodine | 33.6 mmole, 8.5 g | II | I2
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 7.5 ml | O | H2O
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 5-(3-Bromophenyl)iodomethyl-tetrahydropyran-2-one | 1.3 g | BrC=1C=C(C=CC1)C1CC(C(OC1)=O)CI | C12H12BrIO2
